US09326973B2
To a solution of 1-methylcyclopropanecarbaldehyde in MeOH (20 mL) was added (R)-2-amino-2-phenylethanol (3.23 g, 23.54 mmol) at rt under N2 in 3 portions. The mixture was stirred at rt for 2 h and then cooled down with ice-water bath and added with trimethylsilyl cyanide (5.74 mL, 42.8 mmol) dropwise over 5 min. The mixture was stirred for 10 min, ice bath was removed and the reaction was stirred at rt overnight. The reaction mixture was concentrated and purified on a 40 g silica gel column (EtOAc/hexane: 0 to 100%) to afford (S)-2-((R)-2-hydroxy-1-phenylethylamino)-2-(1-methylcyclopropyl)acetonitrile. 1H NMR (400 MHz, CHLOROFORM-d) δ 7.40-7.30 (m, 5H), 4.08 (dd, J=9.2, 4.1 Hz, 1H), 3.82 (dd, J=10.8, 4.0 Hz, 1H), 3.64 (t, J=10.0 Hz, 1H), 2.97 (s, 1H), 1.26 (s, 3H), 0.63-0.53 (m, 2H), 0.51-0.42 (m, 2H).

reactant | 1-methylcyclopropanecarbaldehyde | CC1(CC1)C=O | C5H8O
reactant | (R)-2-amino-2-phenylethanol | 23.54 mmol, 3.23 g | N[C@@H](CO)C1=CC=CC=C1 | C8H11NO
reactant | trimethylsilyl cyanide | 42.8 mmol, 5.74 mL | C[Si](C)(C)C#N | C4H9NSi
solvent | MeOH | 20 mL | CO | CH4O
product | (S)-2-((R)-2-hydroxy-1-phenylethylamino)-2-(1-methylcyclopropyl)acetonitrile | OC[C@@H](C1=CC=CC=C1)N[C@H](C#N)C1(CC1)C | C14H18N2O
